US03947584
If the 3-(2'-methyl-2'-nitrobutyl)-5-methoxy-indole obtained as intermediate product in Example 2 is methylated by the procedure described in Example 4 (or by means of sodium hydride and methyl iodide in hexamethyl phosphoric acid triamide), 1-methyl-3-(2'-methyl-2'-nitrobutyl)-5-methoxy-indole is obtained and melts at 95°-96°C. after crystallisation from acetone/water and distillation. Catalytic reduction thereof yields 1-methyl-3-(2'-methyl-2'-aminobutyl)-5-methoxy-indole. Melting point of the benzoic acid salt 179.5°-184°C. (insoluble in ether).

reactant | 3-(2'-methyl-2'-nitrobutyl)-5-methoxy-indole | CC(CC1=CNC2=CC=C(C=C12)OC)(CC)[N+](=O)[O-] | C14H18N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | hexamethyl phosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-methyl-3-(2'-methyl-2'-nitrobutyl)-5-methoxy-indole | CN1C=C(C2=CC(=CC=C12)OC)CC(CC)([N+](=O)[O-])C | C15H20N2O3
